US04066655
3-Amino-6-chloro-4H-1-benzopyran-4-one
Sodium dithionite (20 g, 0.115 mole) was added to a suspension of 3-nitro-6-chloro-4H-1-benzopyran-4-one (7.0 g, 0.037 mole) in water (80 ml) and absolute ethanol (30 ml). The reaction mixture was refluxed under nitrogen for 3 hrs., concentrated at reduced pressure and filtered. The solids were washed with water and recrystallized from acetone to give yellow crystals (5.44 g, 90%), m.p. 184°-186°.

reactant | Sodium dithionite | 0.115 mole, 20 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | 3-nitro-6-chloro-4H-1-benzopyran-4-one | 0.037 mole, 7.0 g | [N+](=O)([O-])C1=COC2=C(C1=O)C=C(C=C2)Cl | C9H4ClNO4
solvent | water | 80 ml | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3-Amino-6-chloro-4H-1-benzopyran-4-one | 5.44 g, 90% | NC1=COC2=C(C1=O)C=C(C=C2)Cl | C9H6ClNO2
